US07067566B2
(1) Synthesis of Chalcone Functional Group
10 g of methoxy chalcone and 2.05 g of sodium cyanide are dissolved into 100 ml of dimethyl-sulfoxide, and then reacted for 24 hours. After the reaction, the reacted solution is mixed with chloroform and agitated together with distilled water so as to extract impurities. After removing the solution phase, the solution is decompressed at a room temperature in order to eliminate chloroform. After recrystallization of the remained solid phase in methanol, the solution is dried under vacuum, thus obtaining 4-hydroxychalcone for photoreaction.

reactant | methoxy chalcone | 10 g | COC1=C(C=CC=C1)C=CC(=O)C1=CC=CC=C1 | C16H14O2
reactant | sodium cyanide | 2.05 g | [C-]#N.[Na+]
reactant | dimethyl-sulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | Chalcone | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
